US06313151B1
D. 3-( 4-tert-butylbenzoyl)amino-N-(4-methoxyphenyl)-2-thiophenecarboxamide
A solution of 2-[4-(tert-butyl)phenyl]-4-oxo-4H-thieno[3,2-d][1.3]oxazine (60 mg, 0.21 mmol) and p-anisidine (26 mg, 0.21 mmol) in toluene (1 mL) was treated with p-toluenesulfonic acid (4 mg) and the resulting mixture heated at relux for 30 h. The mixture was concentrated in vacuo and the residue was purified by flash chromatography (silica gel, hexanes/ethyl acetate) to yield 35 mg (41%) of the title compound.

reactant | 2-[4-(tert-butyl)phenyl]-4-oxo-4H-thieno[3,2-d][1.3]oxazine | 0.21 mmol, 60 mg | C(C)(C)(C)C1=CC=C(C=C1)C=1OC(C2=C(N1)C=CS2)=O | C16H15NO2S
reactant | p-anisidine | 0.21 mmol, 26 mg | COC1=CC=C(C=C1)N | C7H9NO
reactant | p-toluenesulfonic acid | 4 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 3-( 4-tert-butylbenzoyl)amino-N-(4-methoxyphenyl)-2-thiophenecarboxamide | 35 mg, 41% | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(SC=C2)C(=O)NC2=CC=C(C=C2)OC)C=C1 | C23H24N2O3S
